US05747518
2) 2-amino-3-(4-chlorophenyl)thiophene
The same procedures as described in Example 1 were carried out except that 2-nitro-3-(4-tolyl)thiophene was replaced by 2-nitro-3-(4-chlorophenyl)thiophene, and the filtrate thus obtained was used as intact for the next reaction.

reactant | 2-nitro-3-(4-tolyl)thiophene | [N+](=O)([O-])C=1SC=CC1C1=CC=C(C=C1)C | C11H9NO2S
reactant | 2-nitro-3-(4-chlorophenyl)thiophene | [N+](=O)([O-])C=1SC=CC1C1=CC=C(C=C1)Cl | C10H6ClNO2S
product | 2-amino-3-(4-chlorophenyl)thiophene | NC=1SC=CC1C1=CC=C(C=C1)Cl | C10H8ClNS
